US07915424B2
(b) 1-Ethynyl-3-trifluoromethylbenzene
Add potassium carbonate (307 mg, 2.22 mmol) to a solution of trimethyl-(3-trifluoromethylphenylethynyl)-silane (1.07 g, 4.42 mmol) in ethanol (15 mL). Stir at room temperature for 16 h. Neutralized with 10% aqueous hydrochloric acid solution. Add water and extract the product with hexanes. Evaporate hexanes slowly in a cool water bath (<15° C.) to give the title compound (580 mg, 77%).

reactant | potassium carbonate | 2.22 mmol, 307 mg | C([O-])([O-])=O.[K+].[K+]
reactant | trimethyl-(3-trifluoromethylphenylethynyl)-silane | 4.42 mmol, 1.07 g | C[Si](C#CC1=CC(=CC=C1)C(F)(F)F)(C)C | C12H13F3Si
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 15 mL | C(C)O | C2H6O
product | 1-Ethynyl-3-trifluoromethylbenzene | 580 mg, 77% | C(#C)C1=CC(=CC=C1)C(F)(F)F | C9H5F3
